US07893058B2
Step 3: (5-Bromo-3-methylimidazo[1,2-a]pyrazin-8-yl)-(4-morpholin-4-ylphenyl)amine
5,8-Dibromo-3-methylimidazo[1,2-a]pyrazine (270 mg, 0.93 mmol) and 4-morpholinoaniline (200 mg, 1.1 mmol) are combined in nBuOH (10 mL) and DIPEA (240 μL, 1.4 mmol) is added. The mixture is heated at reflux for 10 h, cooled and the solvent removed under reduced pressure. The residue is purified by silica chromatography, eluting with 12% -100% EtOAc in cyclohexane, to afford the title compound as a red-brown solid (190 mg).

reactant | 5,8-Dibromo-3-methylimidazo[1,2-a]pyrazine | 0.93 mmol, 270 mg | BrC1=CN=C(C=2N1C(=CN2)C)Br | C7H5Br2N3
reactant | 4-morpholinoaniline | 1.1 mmol, 200 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | DIPEA | 1.4 mmol, 240 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | nBuOH | 10 mL | C(CCC)O | C4H10O
product | (5-Bromo-3-methylimidazo[1,2-a]pyrazin-8-yl)-(4-morpholin-4-ylphenyl)amine | 190 mg | BrC1=CN=C(C=2N1C(=CN2)C)NC2=CC=C(C=C2)N2CCOCC2 | C17H18BrN5O
